US04122175
The condensation of 0.1 mol of 1-phenyl-2,3-dihydroimidazo(4,5-b)pyridin-2-one and of 0.1 mol of 2-chloromethyl-4-benzyl-morpholine is carried out in accordance with the procedure of Example 1. Recrystallization of the product from a 50/25 mixture of ethyl acetate and isopropanol gives 19 g of 4-benzyl-2-(1-phenyl-2,3-dihydroimidazo (4,5-b)pyridin- 2-on-3-yl-methyl)-morpholine hydrochloride, m.p. 214° C.

reactant | 1-phenyl-2,3-dihydroimidazo(4,5-b)pyridin-2-one | 0.1 mol | C1(=CC=CC=C1)N1C(NC2=NC=CC=C21)=O | C12H9N3O
reactant | 2-chloromethyl-4-benzyl-morpholine | 0.1 mol | ClCC1CN(CCO1)CC1=CC=CC=C1 | C12H16ClNO
product | 4-benzyl-2-(1-phenyl-2,3-dihydroimidazo (4,5-b)pyridin- 2-on-3-yl-methyl)-morpholine hydrochloride | 19 g | Cl.C(C1=CC=CC=C1)N1CC(OCC1)CN1C(N(C=2C1=NC=CC2)C2=CC=CC=C2)=O | InChI=1S/C24H24N4O2.ClH/c29-24-27(18-21-17-26(14-15-30-21)16-19-8-3-1-4-9-19)23-22(12-7-13-25-23)28(24)20-10-5-2-6-11-20;/h1-13,21H,14-18H2;1H
